US06953857B2
(iii) 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-isopropoxy-benzoic acid
0.75 g (1.89 mmol) of 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-isopropoxy-benzoic acid ethyl ester was dissolved in 15 ml of dioxan. 5 ml of water and 2N aqueous NaOH was added to the solution to give a pH of 13. The reaction solution was heated at 60° C. for 4 h and stirred at room temperature for 16 h. The reaction solution was cooled to 0° C. and concentrated hydrochloric acid was added to give a pH of 1-2, whereupon the product precipitated from solution. The suspension was stirred for 30 min, then the product was filtered off and dried under reduced pressure.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-isopropoxy-benzoic acid ethyl ester | 1.89 mmol, 0.75 g | C(C)OC(C1=CC(=C(C=C1)OC(C)C)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C20H22Cl2O4
reactant | water | 5 ml | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-isopropoxy-benzoic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1OC(C)C | C18H18Cl2O4
